US06680317B2
c) N-(2-Fluorophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]thiourea
Following the general procedure for protected phenyl thiourea formation outlined in example 12, N-[4-chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-fluorophenyl)thiourea (440 mg, 1.09 mmol), tert-butyldimethylsilyl chloride (817 mg, 5.45 mmol) and imidazole (148 mg, 2.18 mmol) were reacted to form the desired product (387 mg, 69%). EI-MS m/z 518.2 (M+).

reactant | phenyl thiourea | C1(=CC=CC=C1)NC(=S)N | C7H8N2S
reactant | N-[4-chloro-2-hydroxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]-N′-(2-fluorophenyl)thiourea | 1.09 mmol, 440 mg | ClC1=C(C(=C(C=C1)NC(=S)NC1=C(C=CC=C1)F)O)S(=O)(=O)N(C)C | C15H15ClFN3O3S2
reactant | tert-butyldimethylsilyl chloride | 5.45 mmol, 817 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 2.18 mmol, 148 mg | N1C=NC=C1 | C3H4N2
product | N-(2-Fluorophenyl)-N′-[4-chloro-2-tert-butyldimethylsilyloxy-3-(N″,N″-dimethylaminosulfonyl)phenyl]thiourea | 387 mg, 69% | FC1=C(C=CC=C1)NC(=S)NC1=C(C(=C(C=C1)Cl)S(=O)(=O)N(C)C)O[Si](C)(C)C(C)(C)C | C21H29ClFN3O3S2Si
